US09062048B2
Step A: 8-(prop-1-en-2-yl)-1,4-dioxaspiro[4.5]decane
To a solution 2-(1,4-dioxaspiro[4.5]decan-8-yl)propan-2-ol (164 mg, 0.82 mmol, prepared in the Example 29, Step A) in THF (10 mL) cooled to 0° C. under argon was added Burgess Reagent (214 mg, 0.87 mmol). After the complete addition, the reaction mixture was at room temperature 1 hour and then concentrated in vacuo. The residue purified by flash chromatography (silica gel, DCM) to afford the product.

reactant | 2-(1,4-dioxaspiro[4.5]decan-8-yl)propan-2-ol | O1CCOC12CCC(CC2)C(C)(C)O | C11H20O3
reactant | Burgess Reagent | 0.87 mmol, 214 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-(prop-1-en-2-yl)-1,4-dioxaspiro[4.5]decane | C=C(C)C1CCC2(OCCO2)CC1 | C11H18O2
